US05521160
2.65 g of 4-(3,5-dinitro-benzyloxy)-biphenyl in 30 ml of ethyl acetate were exhaustively hydrogenated in a hydrogen atmosphere with the addition of 200 mg of platinum oxide. Subsequently, the reaction mixture was filtered over Dicalite and the filtrate was concentrated. The residue was recrystallized from ether/hexane and yielded 5-(biphenyl-4-yloxymethyl)-benzene-1,3-diamine in the form of colourless crystals, MS: m/z 290 ([M]+).

reactant | 4-(3,5-dinitro-benzyloxy)-biphenyl | 2.65 g | [N+](=O)([O-])C=1C=C(COC2=CC=C(C=C2)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C19H14N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 200 mg | [Pt]=O
product | 5-(biphenyl-4-yloxymethyl)-benzene-1,3-diamine | C1(=CC=C(C=C1)OCC=1C=C(C=C(C1)N)N)C1=CC=CC=C1 | C19H18N2O
